US05661161
Step A: Diethyl 1-Acetyl-5-hydroxy-3-ethylpyrrolidine-2,2-dicarboxylate
Sodium (4.02 g, 0.175 mol) was dissolved in a stirred solution of diethyl acetamidomalonate (235.4 g, 1.19 mol) in abs EtOH (1.4 L) at ambient temperature under argon. The reaction mixture was cooled to 0° C., and trans-2-pentenal (100 g, 1.08 mol) was added dropwise maintaining the reaction temperature at <5° C. After the addition, the reaction was allowed to warm to room temperature, stirred for 4 h, then quenched with acetic acid (28 mL). The solution was concentrated in vacuo, and the residue dissolved in EtOAc (1.5 L), washed with 10% NaHCO3 solution (2×300 mL), brine, and dried (MgSO4). The solution was filtered and concentrated to 700 mL, then heated to reflux and treated with hexane (1 L). On cooling, the title compound precipitated and was collected to give 287 g. 1H NMR (CD3OD) δ 5.65 (d, 1H, J=5 Hz), 4.1-4.25 (m, 4H), 2.7-2.8 (m, 1H), 2.21 (s, 3H), 2.10 (dd, 1H, J=6, 13, Hz), 1.86-1.97 (m, 2H), 1.27 (t, 3H, J=7 Hz), 1.23 (t, 3H, J=7 Hz), 1.1-1.25 (m, 1H), 0.97 (t, 3H, J=7 Hz).

reactant | Sodium | 0.175 mol, 4.02 g | [Na] | Na
reactant | diethyl acetamidomalonate | 1.19 mol, 235.4 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | trans-2-pentenal | 1.08 mol, 100 g | C(\C=C\CC)=O | C5H8O
solvent | EtOH | 1.4 L | CCO | C2H6O
product | Diethyl 1-Acetyl-5-hydroxy-3-ethylpyrrolidine-2,2-dicarboxylate | C(C)(=O)N1C(C(CC1O)CC)(C(=O)OCC)C(=O)OCC | C14H23NO6
